US08604069B2
(A-53-25) 4-{4-Cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}-5-(2,4-dimethylphenylcarbamoyl)valeric acid
Methyl 4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}-5-(2,4-dimethylphenylcarbamoyl)valerate (115 mg) and acetic acid (1.2 mL) were mixed. To the mixture was added 47% hydrobromic acid (0.6 mL) at 10° C. The mixture was stirred at RT and further stirred at 60° C. To the reaction mixture was added sodium acetate (492 mg) at ice temperature. The mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: methanol/chloroform/acetic acid=1/20/0.05) to give the title compound (109 mg). The resulting title compound was analyzed using a chiral column. The retention time of the title compound was 24.7 min., and the optical purity thereof was 94.9% ee.

reactant | Methyl 4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}-5-(2,4-dimethylphenylcarbamoyl)valerate | 115 mg | C1(CC1)C=1C(=NOC1C1CC(C1)CC(C)(C)C)C(CCC(=O)OC)CC(NC1=C(C=C(C=C1)C)C)=O | C30H42N2O4
reactant | hydrobromic acid | 0.6 mL | Br | BrH
reactant | sodium acetate | 492 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
product | 4-{4-Cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}-5-(2,4-dimethylphenylcarbamoyl)valeric acid | 109 mg | C1(CC1)C=1C(=NOC1C1CC(C1)CC(C)(C)C)C(CCC(=O)O)CC(NC1=C(C=C(C=C1)C)C)=O | C29H40N2O4
